US09238639B2
B) Methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-4,7-dimethyl-1-benzofuran-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.240 mL), (2,6-dimethylpyridin-3-yl)methanol (92 mg), methyl(6-hydroxy-4,7-dimethyl-1-benzofuran-3-yl)acetate (150 mg) and THF (6.0 mL) was added ADDP (242 mg) at room temperature. The mixture was stirred at room temperature overnight under nitrogen atmosphere. The mixture was concentrated. To the residue was added. IPE and the precipitate was filtered off and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (163.9 mg).

reactant | tri-n-butylphosphine | 0.240 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2,6-dimethylpyridin-3-yl)methanol | 92 mg | CC1=NC(=CC=C1CO)C | C8H11NO
reactant | methyl(6-hydroxy-4,7-dimethyl-1-benzofuran-3-yl)acetate | 150 mg | COC(CC1=COC2=C1C(=CC(=C2C)O)C)=O | C13H14O4
reactant | ADDP | 242 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | Methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-4,7-dimethyl-1-benzofuran-3-yl)acetate | 163.9 mg | COC(CC1=COC2=C1C(=CC(=C2C)OCC=2C(=NC(=CC2)C)C)C)=O | C21H23NO4
